US07820685B2
N-{4-[4-Azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-2-chloro-benzamide: (Compound I-1)
A 500 mL round bottom flask was charged with 2-chloro-N-{4-[4-chloro-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-benzamide (16.0 g, 34.0 mmol), azetidine (3.87 g, 68.0 mmol), N,N-diisopropylethylamine (13.0 mL, 74.7 mmol) and n-butanol (250 mL). The reaction mixture was stirred at 90° C. for 5 h. The reaction mixture was cooled and concentrated in vacuo. Diethyl ether (200 mL) was added and a light brown solid precipitated. The solution was filtered and the solid recrystallized from ethanol to give the pure product as a white solid (9.42 g, 52%) 1H NMR (DMSO): 2.04 (3H, s), 2.32 (2H, m), 3.87 (4H, m), 5.39 (1H, s), 5.66 (1H, br s), 7.48-7.59 (6H, m), 7.82 (2H, m), 9.87 (1H, s), 10.74 (1H, s), 11.68 (1H, s); MS (ES+) : 492.

reactant | 2-chloro-N-{4-[4-chloro-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-benzamide | 34.0 mmol, 16.0 g | ClC1=C(C(=O)NC2=CC=C(C=C2)SC2=NC(=CC(=N2)Cl)NC=2NN=C(C2)C)C=CC=C1 | C21H16Cl2N6OS
reactant | azetidine | 68.0 mmol, 3.87 g | N1CCC1 | C3H7N
reactant | N,N-diisopropylethylamine | 74.7 mmol, 13.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 250 mL | C(CCC)O | C4H10O
product | N-{4-[4-Azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-2-chloro-benzamide | 9.42 g, 52% | N1(CCC1)C1=NC(=NC(=C1)NC=1NN=C(C1)C)SC1=CC=C(C=C1)NC(C1=C(C=CC=C1)Cl)=O | C24H22ClN7OS
